US07872003B2
To a solution of 2-[3-(tert-butyl-dimethyl-silanyloxy)-phenyl]-6-((3R,5S)-3,5-dimethyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (80 mg, 0.14 mmol) in dichloromethane (5 mL) was added triethylamine (40 μL, 2.0 equivalents) followed by acetyl chloride (15 μL, 1.5 eq.). After stirring overnight, the reaction mixture was diluted with dichloromethane, washed with aqueous sodium carbonate solution, dried (MgSO4) and the solvent removed in vacuo to yield 1-((2R,6S)-4-{2-[3-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl}-2,6-dimethyl-piperazin-1-yl)-ethanone (80 mg) as a white solid. Removal of the tert-butyldimethylsilyl protecting group was performed as described above to yield the title compound.

reactant | 2-[3-(tert-butyl-dimethyl-silanyloxy)-phenyl]-6-((3R,5S)-3,5-dimethyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 0.14 mmol, 80 mg | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C=1N=C(C2=C(N1)C=C(S2)CN2C[C@H](N[C@H](C2)C)C)N2CCOCC2)(C)C | C29H43N5O2SSi
reactant | triethylamine | 40 μL, 2.0 equivalents | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 15 μL, 1.5 eq. | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-((2R,6S)-4-{2-[3-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl}-2,6-dimethyl-piperazin-1-yl)-ethanone | 80 mg | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C=1N=C(C2=C(N1)C=C(S2)CN2C[C@H](N([C@H](C2)C)C(C)=O)C)N2CCOCC2)(C)C | C31H45N5O3SSi
